US05594159
(CF3)2CHCO2H+H2O→CF3CH2CF3 +CF3CH=CF2
A mixture of 25 mL water, 50 mL acetone and 15.1 g (77 mmol) (CF3)2CHCO2H was heated in a stainless steel tube for 16 hours at 100° C. The reaction product was discharged from the reaction vessel and collected in a cold trap (-78° C.). A liquid (9 mL) was collected and based on 19F and 1H NMR was found to contain 20% acetone, 75% CF3CH2CF3 and 5% CF3CH=CF2. The crude product was distilled through a low-temperature column and a mixture (9.4 g) containing 95% CF3CH2CF3 and 5% CF3CH=CF2 was isolated. The conversion of (CF3)2CHCO2H was 85%.

reactant | water | 25 mL | O | H2O
reactant | (CF3)2CHCO2H | 77 mmol, 15.1 g | C(C(F)(F)F)(C(F)(F)F)C(=O)O | C4H2F6O2
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | (CF3)2CHCO2H H2O | C(C(F)(F)F)(C(F)(F)F)C(=O)O.O | InChI=1S/C4H2F6O2.H2O/c5-3(6,7)1(2(11)12)4(8,9)10;/h1H,(H,11,12);1H2
